US08067457B2
N-[2-({(3R)-1-[1-(4-methoxyphenyl)piperidin-4-yl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide was synthesized in similar fashion to N-[2-({(3R)-1-[1-(6-methoxypyridin-3-yl)piperidin-4-yl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide whereby 1-(4-methoxyphenyl)piperidin-4-one was substituted for 1-(6-methoxypyridin-3-yl)piperidin-4-one, and was isolated as a white solid. 1H-NMR (CD3OD) δ: 1.82-1.89 (m, 2H), 2.17-2.21 (m, 3H), 2.43-2.46 (m, 1H), 2.68 (q, J=11.7 Hz, 2H), 3.17-3.25 (ma 1H), 3.38-3.46 (m, 2H), 3.57-3.66 (m, 4H), 3.72 (s, 3H), 4.04 (s, 2H), 4.50-4.52 (m, 1H), 6.80-6.85 (m, 2H); 6.92-6.96 (m, 2H), 7.69 (t, J=7.9 Hz, 1H), 7.87 (d, J=8.1 Hz, 1H), 8.15 (d, J=7.8 Hz, 1H), 8.22 (s, 1H), 8.29 (s, 2H). MS m/z: 505 (M+1).

reactant | N-[2-({(3R)-1-[1-(6-methoxypyridin-3-yl)piperidin-4-yl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide | COC1=CC=C(C=N1)N1CCC(CC1)N1C[C@@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C25H30F3N5O3
reactant | 1-(4-methoxyphenyl)piperidin-4-one | COC1=CC=C(C=C1)N1CCC(CC1)=O | C12H15NO2
reactant | 1-(6-methoxypyridin-3-yl)piperidin-4-one | COC1=CC=C(C=N1)N1CCC(CC1)=O | C11H14N2O2
product | N-[2-({(3R)-1-[1-(4-methoxyphenyl)piperidin-4-yl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide | COC1=CC=C(C=C1)N1CCC(CC1)N1C[C@@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C26H31F3N4O3
